*** define subcircuits (modules) ***** 
.subckt nand dd ss a b out
    MN1 ab  b   ss   ss  nch l='1*LMIN' w='2*LMIN'
    MN2 out a   ab   ss  nch l='1*LMIN' w='2*LMIN'
    
    MP3 out a   dd   dd  pch l='1*LMIN' w='6*LMIN'
    MP4 out b   dd   dd  pch l='1*LMIN' w='6*LMIN'
.ends